US04490369
(a) 1-(8,9-Dimethoxy-1,3-dihydro-2H-3-benzazepin-2-on-3-yl)-3-chloro-propane
This compound was prepared analogous to Example 1(a) by reacting 8,9-dimethoxy-1,3-dihydro-2H-3-benzazepin-2-one (m.p.: 165°-168° C.) with 1-bromo-3-chloro-propane.

reactant | 8,9-dimethoxy-1,3-dihydro-2H-3-benzazepin-2-one | COC=1C=CC2=C(CC(NC=C2)=O)C1OC | C12H13NO3
reactant | 1-bromo-3-chloro-propane | BrCCCCl | C3H6BrCl
product | 1-(8,9-Dimethoxy-1,3-dihydro-2H-3-benzazepin-2-on-3-yl)-3-chloro-propane | COC=1C=CC2=C(CC(N(C=C2)CCCCl)=O)C1OC | C15H18ClNO3
